*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8L(-55to150[deg])/2.20e-03[uF]/50[V]
* Murata P/N :GCM155L81H222KA01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155L81H222KA01 Port1 Port2
C01 Port1 N01 2.20e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.96e-10
R03 N02 N03 1.65e-01
C04 N03 N04 2.82e-07
R04 N03 N04 7.23e+03
C05 N04 N05 3.70e-07
R05 N04 N05 4.26e+02
C06 N05 N06 3.11e-07
R06 N05 N06 5.12e+01
C07 N06 N07 2.38e-07
R07 N06 N07 5.56e+00
C08 N07 N08 1.73e-07
R08 N07 N08 7.94e-01
C09 N08 N09 7.40e-08
R09 N08 N09 2.15e-01
C10 N09 N10 2.17e-08
R10 N09 N10 9.19e-02
L11 N10 N11 3.52e-11
R11 N10 N11 3.32e-01
C12 N11 N12 1.85e-09
L12 N11 N12 2.44e-11
R12 N11 N12 1.38e-01
C13 N12 Port2 3.05e-12
L13 N12 Port2 1.04e-10
R13 N12 Port2 1.54e+01
.ENDS GCM155L81H222KA01
